US06130241
3-n-Decyl-3-azabicyclo[3.1.0]hexane-2,4-dione
1-Iododecane (1.21 g) was added to a stirred mixture of 3-azabicyclo[3.1.0]hexane-2,4 dione (0.5 g), potassium carbonate (0.62 g) and tetrabutylammonium bromide (1.45 g) in dichloromethane (50 ml) at room temperature and the resulting mixture was stirred for 24 hours. The mixture was filtered and the filtrate was then washed with water (2×100 ml), dried (MgSO4) and evaporated in vacuo to give a brown oil. The oil was purified by column chromatography on silica gel (100 g) using hexane as eluant. Combination and evaporation of the appropriate fractions gave the title compound as a colourless oil.

reactant | 1-Iododecane | 1.21 g | ICCCCCCCCCC | C10H21I
reactant | 3-azabicyclo[3.1.0]hexane-2,4 dione | 0.5 g | C12C(NC(C2C1)=O)=O | C5H5NO2
reactant | potassium carbonate | 0.62 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium bromide | 1.45 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-n-Decyl-3-azabicyclo[3.1.0]hexane-2,4-dione | C(CCCCCCCCC)N1C(C2CC2C1=O)=O | C15H25NO2
